US05342959
(a) (S)-(+)-α-(Chloromethyl)-2-nitro-1H-imidazole-1-ethanol
Alternatively, reaction of 2-nitroimidazole, anhydrous potassium carbonate, and (S)-(+)-epichlorohydrin as described in Example 1(a) gives the product.

reactant | 2-nitroimidazole | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-(+)-epichlorohydrin | C(Cl)[C@@H]1CO1 | C3H5ClO
product | (S)-(+)-α-(Chloromethyl)-2-nitro-1H-imidazole-1-ethanol | ClC[C@H](CN1C(=NC=C1)[N+](=O)[O-])O | C6H8ClN3O3
